US08895544B2
6-[2-Ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile
To a solution of 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile (Preparation 2, 28.5 g, 93 mmol) and 2-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Preparation 5, 73.8 g, 112 mmol) in dioxane (500 mL) was added a solution of potassium phosphate (59.2 g, 279 mmol) in water (120 mL). The mixture was degassed with nitrogen and then tetrakis (triphenylphosphine) palladium(0) (10.8 g, 9.3 mmol) was added. The reaction mixture was heated at 110° C. for 18 hours. The reaction mixture was concentrated in vacuo and the residue was redissolved in EtOAc (1 L) and filtered through Arbocel®, washing with EtOAc (2×500 mL). The combined organic phases were concentrated in vacuo to give a brown oil. The residue was purified by column chromatography on silica gel eluting with 10% EtOAc in heptane to give the title compound as a viscous oil (37.4 g) in an 81% yield.

reactant | 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile | 93 mmol, 28.5 g | BrC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C#N | C13H12BrN3O
reactant | 2-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 112 mmol, 73.8 g | C(C)C1=C(C=C(C(=C1)OCOCC[Si](C)(C)C)F)B1OC(C(O1)(C)C)(C)C | C20H34BFO4Si
reactant | potassium phosphate | 279 mmol, 59.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | water | 120 mL | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium(0) | 9.3 mmol, 10.8 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[2-Ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile | 37.4 g, 81% yield | C(C)C1=C(C=C(C(=C1)OCOCC[Si](C)(C)C)F)C1=CC=C2C(=NN(C2=C1)C1OCCCC1)C#N | C27H34FN3O3Si
